US07396847B2
N-[((5S)-3-{4′-[(5R)-5-(Hydroxymethyl)-4,5-dihydroisoxazol-3-yl]-1,1′-biphenyl-4-yl}-2-oxo-1,3-oxazolidin-5-yl)methyl]acetamide
A solution of tetrabutylammonium fluoride in THF (1M, 0.69 ml, 0.69 mM) was added to a solution of N-[((5S)-3-{4′-[(5R)-5-({[tert-butyl(dimethyl)silyl]oxy}methyl)-4,5-dihydroisoxazol-3-yl]-1,1′-biphenyl-4-yl}-2-oxo-1,3-oxazolidin-5-yl)methyl]acetamide (300 mg, 0.57 mM) in THF (5 ml). After approximately 2 hours, ethyl acetate was added and the resulting suspension was filtered. The filter cake was washed with water and ethyl acetate to give 140 mg of the title product.

reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | N-[((5S)-3-{4′-[(5R)-5-({[tert-butyl(dimethyl)silyl]oxy}methyl)-4,5-dihydroisoxazol-3-yl]-1,1′-biphenyl-4-yl}-2-oxo-1,3-oxazolidin-5-yl)methyl]acetamide | 0.57 mM, 300 mg | [Si](C)(C)(C(C)(C)C)OC[C@H]1CC(=NO1)C1=CC=C(C=C1)C1=CC=C(C=C1)N1C(O[C@H](C1)CNC(C)=O)=O | C28H37N3O5Si
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 1M, 0.69 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | N-[((5S)-3-{4′-[(5R)-5-(Hydroxymethyl)-4,5-dihydroisoxazol-3-yl]-1,1′-biphenyl-4-yl}-2-oxo-1,3-oxazolidin-5-yl)methyl]acetamide | 140 mg | OC[C@H]1CC(=NO1)C1=CC=C(C=C1)C1=CC=C(C=C1)N1C(O[C@H](C1)CNC(C)=O)=O | C22H23N3O5
